US07361770B2
L-valine benzyl ester hydrochoride is N-alkylated with 4-bromomethyl-2′-cyanobiphenyl, the product 4-[(2′-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester so formed is N-acylated with valeryl chloride to give N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester. N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester is treated with tributyltin azide to give valsartan benzyl ester. Valsartan benzyl ester is subjected to catalytic hydrogenation using for example palladium-charcoal as catalyst to give valsartan.

reactant | L-valine benzyl ester hydrochoride | Cl.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
reactant | 4-bromomethyl-2′-cyanobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
product | 4-[(2′-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C(C)CCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C26H26N2O2
